US08497264B2
A solution of (2-tert-butoxy-2-oxoethyl)zinc (II) chloride (0.5M in Et2O; 116 mL, 57.9 mmol) was cooled to 0° C. and a solution of (Z)—N-(7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-ylidene)-2-methylpropane-2-sulfinamide (10 g, 23.16 mmol) in THF (100 mL) was added drop wise. The resulting mixture was stirred at for 1 hour 0° C. The reaction mixture was diluted with EtOAc and washed with aqueous saturated solution of NH4Cl, followed by brine. The organic layer was dried over Na2SO4, and concentrated under reduced pressure. The obtained residue was purified by chromatography (0-20% EtOAc/hexanes) to afford tert-butyl 2-(7-bromo-3-chloro-5-(1,1-dimethylethylsulfinamido)-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)acetate (7.5 g, 13.69 mmol, 59.1% yield) as a yellow solid.

reactant | (2-tert-butoxy-2-oxoethyl)zinc (II) chloride | 57.9 mmol, 0.5M, 116 mL | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
reactant | (Z)—N-(7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-ylidene)-2-methylpropane-2-sulfinamide | 23.16 mmol, 10 g | BrC=1C=C2/C(/C3=C(C(=NC(=C3)Cl)F)OC2=CC1)=N/S(=O)C(C)(C)C | C16H13BrClFN2O2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(7-bromo-3-chloro-5-(1,1-dimethylethylsulfinamido)-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)acetate | 13.69 mmol, 7.5 g, 59.1% yield | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)(NS(=O)C(C)(C)C)CC(=O)OC(C)(C)C | C22H25BrClFN2O4S
